US08455483B2
b) (9-(2-Fluoro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone
TBAF (1M in THF, 13.9 mL) was added to a solution of (9-(3-(2-(tert-butyldimethylsilyloxy)ethyl)-2-fluorobenzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone [Example 7, step a] (5.35 g) in THF (50 mL) and the resulting mixture was stirred for 1 h. The solvent was evaporated and the residue partitioned between ethyl acetate (100 mL) and water (100 mL). The layers were separated and the aqueous phase was extracted with ethyl acetate (2×100 mL). The combined organic phases were washed with brine (100 mL), dried over sodium sulphate, filtered and evaporated. The crude material was purified by flash silica chromatography, elution gradient 4:1 isohexane:ethyl acetate to 100% ethyl acetate to give the subtitled compound as a clear oil. Yield 3.90 g.

reactant | TBAF | 1M, 13.9 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (9-(3-(2-(tert-butyldimethylsilyloxy)ethyl)-2-fluorobenzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | [Si](C)(C)(C(C)(C)C)OCCC=1C(=C(CN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)C(C)C)CC2)C=CC1)F | C30H46FN3O3SSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (9-(2-Fluoro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | FC1=C(CN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)C(C)C)CC2)C=CC=C1CCO | C24H32FN3O3S
